US04166123
(b) N(1-Methylpyrazol-3-yl)-2-Methylpropanamide
isoButyric anhydride (23.8 g, 0.15 mol), and 3-amino-1-methylpyrazole (11.7 g, 0.12 mol) were heated together at 78° C. in benzene for 2 hours. Solvent and excess of reagent were removed in vacuo and the residue distilled at 124°-128° C./0.05 mm. The distillate, 14.4 g, solidified on standing and a sample separated from ether/petrol (40°-60° C.) as needles, m.p. 82°-83° C.

reactant | isoButyric anhydride | 0.15 mol, 23.8 g | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | 3-amino-1-methylpyrazole | 0.12 mol, 11.7 g | NC1=NN(C=C1)C | C4H7N3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N(1-Methylpyrazol-3-yl)-2-Methylpropanamide | CN1N=C(C=C1)NC(C(C)C)=O | C8H13N3O
